US05414004
EXAMPLE 42 1,3-Dihydro-1-phenyl-3[4-(propylthio)butyl]-3-(4-pyridinylmethyl)-2H-indol-2-one Hydrochloride
3-(4-Chlorobutyl)-1,3-dihydro-1-phenyl-(4-pyridinylmethyl)-2H-indol-2-one hydrochloride (6.0 g, 14.04 mmol) in 75 ml dry THF was treated with NaH (0.75 g, 31.25 mmol) and stirred for 10 min. under dry nitrogen. The mixture was then treated with propanethiol (1.2 g, 15.4 mmol) and stirred at room temperature for 16 h. The mixture was concentrated in vacuo, and the residue was partitioned between 150 ml CH2Cl2 and 100 ml water. The organic layer was washed with water and brine, dried over MgSO4, filtered, treated with 20 ml 1N HCl/ether, and evaporated to dryness. The residue was triturated with 100 ml hot EtOAc, cooled to room temperature, and filtered to collect the solid. The solid was dried in vacuo to give the product in 81% (5.3 g) yield; mp 149°-150° C.; IR(KBr): C=O 1717 cm-1 ; NMR(DMSOd6TMS): δ0.90 (t, 3H, CH3), 1.02, 1.18 (2m, 2H, SCCCH2), 1.45 (m, 4H, CH2CSCCH2), 2.1 (SCCCCH2), 2.37 (2t, 4H, CH2SCH2), [3.42 (d, 1H), 3.59 (d, 1H), CH2 -Pyr], [6.53 (m, 1H), 7.19 (m, 2H), 7.44 (d, 3H), 7.53 (m, 2H), 7.65 (m, 1H) Ar], 7.10, 8.66 (2d, 4H, 4-Pyr]; mass spec m/e 431 (M+1)-HCl.

reactant | 3-(4-Chlorobutyl)-1,3-dihydro-1-phenyl-(4-pyridinylmethyl)-2H-indol-2-one hydrochloride | 14.04 mmol, 6.0 g | Cl.ClCCCCC1(C(N(C2=CC=CC=C12)C1=CC=CC=C1)=O)CC1=CC=NC=C1
reactant | NaH | 31.25 mmol, 0.75 g | [H-].[Na+]
reactant | propanethiol | 15.4 mmol, 1.2 g | C(CC)S | C3H8S
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 1,3-Dihydro-1-phenyl-3[4-(propylthio)butyl]-3-(4-pyridinylmethyl)-2H-indol-2-one Hydrochloride | Cl.C1(=CC=CC=C1)N1C(C(C2=CC=CC=C12)(CC1=CC=NC=C1)CCCCSCCC)=O | InChI=1S/C27H30N2OS.ClH/c1-2-19-31-20-9-8-16-27(21-22-14-17-28-18-15-22)24-12-6-7-13-25(24)29(26(27)30)23-10-4-3-5-11-23;/h3-7,10-15,17-18H,2,8-9,16,19-21H2,1H3;1H
